US04710580
A. Dodecylcarbamic acid, hydroxyethyl ester
4.2 ml dodecyl isocyanate and 2.4 ml of ethylene glycol are combined in tetrahydrofuran at room temperature and stirred overnight at room temperature. The resultant material is evaporated under reduced pressure (<30° C.), dried in vacuo, and purified by chromatography on a silica gel column using ethyl acetate as elutant. Fractions 74-94 are combined (Rf 0.75 TLC Silica gel ethyl acetate iodine detection), evaporated under reduced pressure (<30° C.) and dried in vacuo to yield 546 mg of title product.

reactant | dodecyl isocyanate | 4.2 ml | C(CCCCCCCCCCC)N=C=O | C13H25NO
reactant | ethylene glycol | 2.4 ml | C(CO)O | C2H6O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Dodecylcarbamic acid, hydroxyethyl ester | 546 mg | C(CCCCCCCCCCC)NC(OCCO)=O | C15H31NO3
